US05648347
A solution of (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrobromide (4.85 g, 0.015 mole) in water was basified with 40% aqueous sodium hydroxide and extracted with diethyl ether. The diethyl ether layers were combined, washed with brine, dried (potassium carbonate) and concentrated under reduced pressure to yield the free base. The free base was dissolved in ether and treated with ethereal hydrogen chloride. The hydrochloride salt was recrystallized from ethanol-diethyl ether mixtures to give 3.26 g of (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrochloride as a white solid. m.p. 223°-225° C. dec.

reactant | (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrobromide | 0.015 mole, 4.85 g | Br.FC=1C=C(C=CC1F)[C@]1([C@@H](N[C@@H](CO1)C)C)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrochloride | 3.26 g | Cl.FC=1C=C(C=CC1F)[C@]1([C@@H](N[C@@H](CO1)C)C)O | InChI=1S/C12H15F2NO2.ClH/c1-7-6-17-12(16,8(2)15-7)9-3-4-10(13)11(14)5-9;/h3-5,7-8,15-16H,6H2,1-2H3;1H/t7-,8+,12-;/m1./s1
